US05502065
5-(3-Carbamoylphenyl)-3-(pyrrolidin-2(R)-ylmethyl)-1H-indole
3-(1-Benzyloxycarbonylpyrrolidin-2(R)-ylmethyl)-5-(3-carbamoylphenyl)-1H-indole (700 mg, 1.391 mmol) (see Preparation 40) in ethanol was reduced using catalytic hydrogenation, as described in Example 35. This gave the title compound as a white foam (345 mg). Found: C,71.16; H,6.98; N,12.34; C20H21N3O.H2O requires: C,71.19; H,6.87; N, 12.45.

reactant | 3-(1-Benzyloxycarbonylpyrrolidin-2(R)-ylmethyl)-5-(3-carbamoylphenyl)-1H-indole | 1.391 mmol, 700 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)C1=CC(=CC=C1)C(N)=O | C28H27N3O3
solvent | ethanol | C(C)O | C2H6O
product | 5-(3-Carbamoylphenyl)-3-(pyrrolidin-2(R)-ylmethyl)-1H-indole | 345 mg | C(N)(=O)C=1C=C(C=CC1)C=1C=C2C(=CNC2=CC1)C[C@@H]1NCCC1 | C20H21N3O
